US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[6-(2,6-dimethoxy-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl]-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 6-(2,6-Dimethoxy-pyridin-3-yl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 6-(2,6-Dimethoxy-pyridin-3-yl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline | COC1=NC(=CC=C1C=1C=C2CCNC(C2=CC1)C)OC | C17H20N2O2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[6-(2,6-dimethoxy-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl]-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=C(C=C1CC2)C=2C(=NC(=CC2)OC)OC)C | C24H22BrN5O3
